### PR TITLE
[Merged by Bors] - feat(Algebra/Order): ArchimedeanClass.ball ≤ .closedBall

### PR DESCRIPTION
**Pull request by wwylele**
One missing lemma that will be used in #27268 Hahn embedding theorem

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Module/Archimedean.lean [hunk 1]
```diff
@@ -100,4 +100,10 @@ theorem ball_antitone : Antitone (ball (M := M) K) := by
   intro _ _ h
   exact (Submodule.toAddSubgroup_le _ _).mp <| ballAddSubgroup_antitone h
 
+theorem ball_le_closedBall (c : ArchimedeanClass M) : ball K c ≤ closedBall K c := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Module/Archimedean.lean]: I believe it will be slightly easier to use with `c` implicit

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by ocfnash** [comment]
Thanks! Please feel free to merge after you have considered Yaël's suggestion.

bors d+

File: Mathlib/Algebra/Order/Module/Archimedean.lean (hunk 1 above)
Comment (wwylele) [inline Mathlib/Algebra/Order/Module/Archimedean.lean]:
```suggestion
theorem ball_le_closedBall {c : ArchimedeanClass M} : ball K c ≤ closedBall K c := by
```
